US09108983B2
4-{[tert-Butyl(dimethyl)silyl]oxy}-N-phenylaniline
To a solution of 12 g of 4-anilinophenol (64.7 mmol) in 200 mL of acetonitrile there are added, at ambient temperature, 6.7 g of imidazole (97.05 mmol) and 11.7 g of tert-butyl(dimethyl)silyl chloride (77.64 mmol). The batch is stirred at 70° C. for 4 hours. The reaction mixture is then poured into water and extracted with ether. The organic phase is then dried over MgSO4, then filtered and evaporated to dryness. The crude product thereby obtained is then purified by chromatography over silica gel using petroleum ether and dichloromethane as eluants. The title product is obtained in the form of a powder.

reactant | 4-anilinophenol | 64.7 mmol, 12 g | N(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | imidazole | 97.05 mmol, 6.7 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(dimethyl)silyl chloride | 77.64 mmol, 11.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-N-phenylaniline | [Si](C)(C)(C(C)(C)C)OC1=CC=C(NC2=CC=CC=C2)C=C1 | C18H25NOSi
